Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ondansetron
 
Attending: ___.
 
Chief Complaint:
___ ADMIT NOTE
time pt seen & examined: 6pm

cc: N/V
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man whose PMH includes supraglottic larygneal squamous cell 
carcinoma dx ___, undergoing chemotherapy (cisplatin, last 
dose ___, reduced due to prior refractory N/V) and radiation 
(last dose today), s/p G-tube placement on ___ for nutritional 
support. Here again with N/V. 

He was discharged from ___ on ___ after admission for 
refractory N/V. He was treated with IVF hydration and IV 
antiemetics with improvement, tolerating POs prior to discharge. 
He was instructed to continue PO antimetics standing for two 
more days then resume PRN dosing. He did well and was tolerating 
po for next few days, tolerating tube feeds per his usual 
schedule (2pm-5am), and he went to work for a few hours on ___. 
He presented to ___ clinic for scheduled IVF on ___. On the 
evening of ___ he had two syncopal episodes at home, for which 
he presented to the ED. He was hydrated with 2L IVF and was 
monitored overnight. This morning he was discharged from the ED 
directly to his scheduled XRT, where he had more N/V. He was 
therefore referred to the ED for mgmt, where vitals were: Temp: 
100.6 HR: 82 BP: 128/62 Resp: 18 O2Sat: 98%. He was given 
another 3L IVF, antiemetics, and is now admitted to Medicine for 
further mgmt (OMED capped). 

Pt and wife report he usually has N/V about five days after 
chemotherapy, and per his oncology team, this is typical for 
cisplatin. He also has had recurrent headaches on top/front of 
his head since starting chemotherapy about one month ago, not 
always associated with N/V. Denies blurred vision or focal 
weakness. Some relief with Tylenol ___. Has developed some 
dysphagia last few days but denies choking or odynophagia. 
Denies abdominal pain other than mild soreness to left of G-tube 
site, which has been treated with keflex for cellulitis (last 
dose yesterday of 10-days course). Still notes purulent material 
around tube. Denies diarrhea, melena, hematochezia. No F/C. Has 
had chronic cough since cancer diagnosis, denies recent change. 
Denies CP, SOB, DOE with walking. No dysuria. Currently reports 
mild "indigestion" and developed N/V of bilious material during 
interview. Feels better after episode ended. Still with 
headache. ROS otherwise noncontributory. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: noticed hoarseness
- Seen by Dr. ___ in ___ ENT in ___. Endoscopy 
showed a large mass in the supraglottic larynx.  
- ___: Biopsy showed squamous cell carcinoma in the 
supraglottic area.  There was also involvement of the epiglottis 
and the patient underwent further staging scan including a CT 
and a PET scan.  
- ___: PET scan confirmed the FDG-avid lesions, no
regional lymph nodes, but there was also some pre-epiglottic
extension and also uptake in the sixth rib and L4 of uncertain
significance
- ___: C1D1 Cisplatin with concurrent radiation
 
PAST MEDICAL HISTORY: 
Hemolytic anemia ___
 
Social History:
___
Family History:
Sister had breast and pancreatic cancer. 
 
Physical Exam:
================
ADMISSION EXAM
================
afeb 120/65 71 18 99% RA
GEN: alert, well-appearing
HEENT: dry MM without thrush or mucosal lesions; generalized 
facial & neck erythema with hyperpigmentation, mild superficial 
peeling over neck; neck supple
LUNGS: CTA
CV: RRR s1s2 
ABD: ND +BS soft NT, G-tube site with mild surrounding erythema 
and purulent material
EXT: no ___ edema, feet warm, 2+ DP pulses
NEURO: A&O x3, answers questions & follows commands, motor ___ 
all extremities
GU: no Foley
access: PIV

================
DISCHARGE EXAM
================
Vitals: T:98.9 BP:10110s-120s/70s-80s HR:80s-90s RR:16 02 
sat:97%RA   
GENERAL: NAD, sitting comfortably in bed
CARDIAC: RRR, no m,r,g   
LUNG: CTABL
ABDOMEN: PEG tube in place, mild erythema near tube site, no 
purulent drainage, BS+, NT, ND 
EXTREMITIES: no extremity edema noted  
PULSES: 2+ radial b/l  
NEURO: no focal deficits   
SKIN: mild erythema around PEG tube, no purulent drainage not 
concerning for infection at this time
 
Pertinent Results:
================
ADMISSION LABS
================

___ 11:14AM   WBC-3.3* RBC-3.89* HGB-12.3* HCT-35.6* MCV-91 
MCH-31.6 MCHC-34.6 RDW-13.0
___ 11:14AM   PLT COUNT-160
___ 11:14AM   NEUTS-70.9* LYMPHS-14.9* MONOS-12.2* EOS-1.6 
BASOS-0.5
___ 11:14AM   GLUCOSE-95 UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-99 TOTAL CO2-31 ANION GAP-12
___ 11:54AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG

================
STUDIES
================
CXR PA & LAT: (reviewed)
FINDINGS:  PA and lateral views of the chest.  Lungs are clear 
without focal consolidation or effusion.  The cardiomediastinal 
silhouette is normal. No acute osseous abnormality identified.  
No free air below the diaphragm. Surgical clips and a rounded 
hyperdense structure project over the anterior portion of the 
abdomen.   
IMPRESSION:  No acute cardiopulmonary process 

___ CT HEAD: No acute intracranial process or evidence of 
metastatic disease.

================
DISCHARGE LABS
================

___ 07:20AM BLOOD WBC-3.1* RBC-3.39* Hgb-10.8* Hct-31.2* 
MCV-92 MCH-31.8 MCHC-34.6 RDW-13.3 Plt ___
___ 07:20AM BLOOD Glucose-86 UreaN-16 Creat-0.7 Na-135 
K-4.3 Cl-98 HCO3-32 AnGap-9
___ 07:20AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.___SSESSMENT AND PLAN:  A ___ man with supraglottic 
laryngeal squamous cell cancer, on chemotherapy, status post 
G-tube placement, presenting with nausea and vomiting.

1.  Nausea and Vomiting:  This is most likely a side effect of
his chemotherapy regimen with a 5-day delay being typical of
cisplatin.  He had normal LFTs on ___, so this is
unlikely be related to a biliary or hepatic process.  He had a 
CT
of the head that was not concerning for any acute process that
would be responsible for neurogenic nausea and vomiting.  His
symptoms were controlled with Compazine, Ativan and Zyprexa as
well as promotility agent such as Reglan.  He was able to resume
a regular diet, and tolerated his tube feeds without difficulty
with the above antiemetic regimen.  His chemotherapy regimen was
altered to avoid cisplatin to mitigate the side effects in the
future.

2.  Laryngeal cancer:  As above, the patient presents with
recurrent nausea and vomiting likely induced by cisplatin
chemotherapy.  We are in touch with his outpatient oncologist,
and we decided to switch his chemotherapy regimen to carboplatin
and Taxol, which the patient should be able to tolerate with 
less
side effects.  He received his first dose of this medication
while inpatient and did not have any nausea or vomiting 
following
his dose.

3.  Nutrition:  The patient has a PEG tube in place.  Nutrition
was consulted and made recommendations regarding his tube 
feeding
regimen, which he was able to tolerate without the need of any
additional antiemetics.  His PEG tube site did not appear to 
have any surrounding cellulitis. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prochlorperazine 10 mg PO Q6H:PRN nausea 
2. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety 
3. Ranitidine 150 mg PO DAILY 
4. Nystatin Oral Suspension 5 mL PO QID 
5. Pantoprazole 20 mg PO DAILY 
6. Maalox/Diphenhydramine/Lidocaine 30 mL PO QIDACHS mucositis 

 
Discharge Medications:
1. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety 
2. Maalox/Diphenhydramine/Lidocaine 30 mL PO QIDACHS mucositis 
3. Nystatin Oral Suspension 5 mL PO QID 
4. Pantoprazole 20 mg PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. Prochlorperazine 10 mg PO Q6H:PRN nausea 
7. OLANZapine 5 mg PO BID:PRN nausea 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Nausea and vomiting - induced by chemotherapy
Laryngeal cancer - received chemotherapy while admitted

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with severe nausea and vomiting 
after chemotherapy.  Your chemotherapy regimen was changed so 
that it would be less likely to cause these side effects.  Your 
nausea and vomiting had resolved at the time of discharge.  
However, please return if these symptoms return and are severe 
at home. 
 
Followup Instructions:
___